US09056874B2
(±)-2-(1-(5-Ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-1-hydroxyethyl)-1H-benzo[d]imidazole-5-carbonitrile
To a solution of a mixture of (±)-2-(1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-1-hydroxyethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile and (±)-2-(1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-1-hydroxyethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile (1.5 g, 2.38 mmol) and ethylenediamine (1.61 mL, 23.85 mmol) was added TBAF in THF (1M, 23.85 mL, 23.85 mmol), and then the mixture was stirred at 60° C. for 3 h. The reaction was quenched by H2O. The layers were separated and the aqueous layer was extracted with EtOAc. The organic phase was successively washed with H2O and brine, dried over Na2SO4, and filtered. After concentration of the filtrate the resulting residue was purified by silica gel flash chromatography (heptanes/EtOAc=66/34, isocratic) to give the title compound. MS (ESI+) m/z 499.3 (M+H).

reactant | (±)-2-(1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-1-hydroxyethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | C(C)C=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(C)(O)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C#N | C34H40N4O4SSi
reactant | (±)-2-(1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-1-hydroxyethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile | 2.38 mmol, 1.5 g | C(C)C=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(C)(O)C1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)C#N | C34H40N4O4SSi
reactant | ethylenediamine | 23.85 mmol, 1.61 mL | C(CN)N | C2H8N2
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | THF | 23.85 mmol, 1M, 23.85 mL | C1CCOC1 | C4H8O
product | (±)-2-(1-(5-Ethyl-7-methyl-1-tosyl-1H-indol-4-yl)-1-hydroxyethyl)-1H-benzo[d]imidazole-5-carbonitrile | C(C)C=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(C)(O)C1=NC2=C(N1)C=CC(=C2)C#N | C28H26N4O3S
